US07435735B2
Step 1: Methyl 10-(benzyloxy)-2-(4-fluorobenzyl)-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrido[3′,4′:4,5]pyrrolo[1,2-a]-pyrazine-4-carboxylate
A mixture of methyl 10-(benzyloxy)-2-(4-fluorobenzyl)-8-methyl-1,9-dioxo-1,2,3,4,6,7,8,9-octahydropyrido[3′,4′:4,5]pyrrolo[1,2-a]-pyrazine-4-carboxylate (0.4 g, 0.81 mmol) and manganese(IV) oxide (0.21 g, 2.44 mmol) in toluene (10 mL) was heated in a sealed tube in an oil bath 80° C. overnight. The reaction mixture was cooled to rt, diluted with chloroform (100 mL) and filtered through a pad of Celite. The filtrate was concentrated under vacuum. The filtrate was subjected to column chromatography on silica gel eluting with ethyl acetate. Collection and concentration of appropriate fractions provided the titled compound.

reactant | methyl 10-(benzyloxy)-2-(4-fluorobenzyl)-8-methyl-1,9-dioxo-1,2,3,4,6,7,8,9-octahydropyrido[3′,4′:4,5]pyrrolo[1,2-a]-pyrazine-4-carboxylate | 0.81 mmol, 0.4 g | C(C1=CC=CC=C1)OC=1C2=C(N3C1C(N(CC3)C)=O)C(CN(C2=O)CC2=CC=C(C=C2)F)C(=O)OC | C27H26FN3O5
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV) oxide | 2.44 mmol, 0.21 g | [O-2].[Mn+4].[O-2]
product | Methyl 10-(benzyloxy)-2-(4-fluorobenzyl)-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrido[3′,4′:4,5]pyrrolo[1,2-a]-pyrazine-4-carboxylate | C(C1=CC=CC=C1)OC=1C2=C(N3C1C(N(CC3)C)=O)C(=CN(C2=O)CC2=CC=C(C=C2)F)C(=O)OC | C27H24FN3O5
